US07786307B2
N-{4(S)-Amino-5(S)-hydroxy-2(S)-isopropyl-6-[2-methyl-2-(tetrahydropyran-4-yl)propionyl-amino]hexyl}-2-(3-methoxypropoxy)benzamide hydrochloride
The solution of 0.030 g of tert-butyl (1(S)-{1(S)-hydroxy-2-[2-methyl-2-(tetrahydropyran-4-yl)-propionylamino]ethyl}-3(S)-{[2-(3-methoxypropoxy)benzoylamino]methyl}-4-methylpentyl)-carbamate in 1 ml of 4M HCl (in dioxane) is stirred at 0° C. to 20° C. over 2 hours and subsequently concentrated by evaporation to dryness, and the residue is dissolved in 1 ml of tert-butanol, frozen and lyophilized under high vacuum. The title compound is obtained as a white powder. Rf=0.23 (200:20:1 dichloromethane-methanol-25% conc. ammonia); Rt=3.46 (gradient I).

reactant | tert-butyl (1(S)-{1(S)-hydroxy-2-[2-methyl-2-(tetrahydropyran-4-yl)-propionylamino]ethyl}-3(S)-{[2-(3-methoxypropoxy)benzoylamino]methyl}-4-methylpentyl)-carbamate | 0.030 g | O[C@@H](CNC(C(C)(C1CCOCC1)C)=O)[C@H](C[C@@H](C(C)C)CNC(C1=C(C=CC=C1)OCCCOC)=O)NC(OC(C)(C)C)=O | C34H57N3O8
reactant | HCl | 4M, 1 ml | Cl | ClH
product | N-{4(S)-Amino-5(S)-hydroxy-2(S)-isopropyl-6-[2-methyl-2-(tetrahydropyran-4-yl)propionyl-amino]hexyl}-2-(3-methoxypropoxy)benzamide hydrochloride | Cl.N[C@@H](C[C@H](CNC(C1=C(C=CC=C1)OCCCOC)=O)C(C)C)[C@H](CNC(C(C)(C1CCOCC1)C)=O)O | InChI=1S/C29H49N3O6.ClH/c1-20(2)21(18-31-27(34)23-9-6-7-10-26(23)38-14-8-13-36-5)17-24(30)25(33)19-32-28(35)29(3,4)22-11-15-37-16-12-22;/h6-7,9-10,20-22,24-25,33H,8,11-19,30H2,1-5H3,(H,31,34)(H,32,35);1H/t21-,24+,25+;/m1./s1
